US07378448B2
Combine 4-mercapto-benzaldehyde (0.45 g, 3.3 mmol), 6-chloro-nicotinamide (0.52 g, 3.3 mmol), potassium carbonate (0.7 g, 5.1 mmol), and dimehtylformamide (15 mL) then heat at 70° C. overnight. Cool to room temperature, pour into water, and then extract with dichloromethane (3×75 mL). The combined dichloromethane extracts were dried over sodium chloride/magnesium sulfate, filtered, and concentrated on a rotary evaporator to yield the crude product (1 g). The crude product was purified by flash column chromatography on silica gel eluting with 10% aqueous ammonium hydroxide in ethanol and chloroform to yield 6-(4-formyl-phenylsulfanyl)-nicotinamide (120 mg). 1H NMR (DMSO-D6, 300.00 MHz): 10.08 (s, 1H), 8.91 (dd, 1H, J=2.3, 0.7 Hz), 8.18-8.12 (m, 2H), 8.03-7.98 (m, 2H), 7.83-7.78 (m, 2H), 7.61 (s, 1H), 7.34 (dd, 1H, J=8.4, 0.8 Hz). Step 3 6-[4-(Benzylamino-methyl)-phenylsulfanyl]-nicotinamide

reactant | 4-mercapto-benzaldehyde | 3.3 mmol, 0.45 g | SC1=CC=C(C=O)C=C1 | C7H6OS
reactant | 6-chloro-nicotinamide | 3.3 mmol, 0.52 g | ClC1=NC=C(C(=O)N)C=C1 | C6H5ClN2O
reactant | potassium carbonate | 5.1 mmol, 0.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimehtylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 6-(4-formyl-phenylsulfanyl)-nicotinamide | 120 mg | C(=O)C1=CC=C(C=C1)SC1=NC=C(C(=O)N)C=C1 | C13H10N2O2S
